US05539083
N6 -(Benzyloxycarbonyl)-9-(chlorocarbonylmethyl)adenine
Oxalyl chloride (6.3 g, 50 mmol) is added dropwise over 5 minutes to a solution of N6 -(benzyloxycarbonyl)-9-(carboxymethyl)adenine (16.6 g, 50 mmol) dissolved in dichloromethane (200 mL). The reaction is stirred until gas evolution has ceased and then for an additional 2 hours. The reaction mixture is evaporated to an oil.

reactant | Oxalyl chloride | 50 mmol, 6.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N6 -(benzyloxycarbonyl)-9-(carboxymethyl)adenine | 50 mmol, 16.6 g | C(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C15H13N5O4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N6 -(Benzyloxycarbonyl)-9-(chlorocarbonylmethyl)adenine | C(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)Cl | C15H12ClN5O3
